US06458814B1
c) Ethyl (±)-4-(4-methoxycarbonyl-1,3-oxazol-2-yl)-3-phenylbutanoate
To a suspension of CuBr2 (1.17 g, 5.26 mmole) in degassed (3×vacuum/N2) CH2Cl2 (6 mL) was added hexamethylenetetramine (737 mg, 5.26 mmole) then DBU (0.78 mL, 5.26 mmole). After 5 min, a solution of ethyl (±)-4-(4-methoxycarbonyl-1,3-oxazolin-2-yl)-3-phenylbutanoate (420 mg, 1.32 mmole) in CH2Cl2 (2 mL) was added dropwise. After 6 hr, the mixture was filtered through a pad of silica gel (EtOAc) and the filtrate was concentrated under reduced pressure. The residue was chromatographed on silica gel (50% EtOAc/hexanes) to give the title compound (267 mg, 64%) as a white solid: MS (ES) m/e 318 (M+H)+.

reactant | hexamethylenetetramine | 5.26 mmole, 737 mg | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | DBU | 5.26 mmole, 0.78 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | ethyl (±)-4-(4-methoxycarbonyl-1,3-oxazolin-2-yl)-3-phenylbutanoate | 1.32 mmole, 420 mg | COC(=O)C1N=C(OC1)CC(CC(=O)OCC)C1=CC=CC=C1 | C17H21NO5
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | Ethyl (±)-4-(4-methoxycarbonyl-1,3-oxazol-2-yl)-3-phenylbutanoate | 267 mg, 64% | COC(=O)C=1N=C(OC1)CC(CC(=O)OCC)C1=CC=CC=C1 | C17H19NO5
